US05639732
Benzyl 2-(morpholin-4-yl)ethyl phenylphosphonate:
A mixture of monobenzyl phenylphosphonate (115 mg, 0.46 mmol), N-(2-chloroethyl)morpholine hydrochloride (95 mg, 0.51 mmol) and potassium carbonate (140 mg, 1.0 mmol) in anhydrous DMF was stirred at 65° C. for 22 hours. Following dilution with ethyl acetate (40 ml), the mixture was washed with water four times and finally brine before being dried over magnesium sulfate, filtered and concentrated to leave 124 mg (74%) of the title compound as a pale yellow oil which was used without further purification. MS: 362 m/z (M+H)+.

reactant | monobenzyl phenylphosphonate | 0.46 mmol, 115 mg | C1(=CC=CC=C1)P(OCC1=CC=CC=C1)([O-])=O
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.51 mmol, 95 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | Benzyl 2-(morpholin-4-yl)ethyl phenylphosphonate | 124 mg, 74% | C1(=CC=CC=C1)P(OCC1=CC=CC=C1)(OCCN1CCOCC1)=O | C19H24NO4P
